US04418068
6-acetoxy-2-(4-acetoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene
Two g. of 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene was dissolved in 30 ml. of tetrahydrofuran, and 3.5 g. of potassium carbonate was added. The vessel was blanketed with nitrogen and 0.9 g. of acetic anhydride was added. The mixture was stirred at ambient temperature for 2 hours, and then under reflux for 2 hours more. The mixture was then cooled, and to it was added 200 ml. of chloroform. The mixture was washed with 100 ml. of aqueous sodium chloride solution, and the organic layer was dried over magnesium sulfate, filtered and evaporated to dryness under vacuum at 40° C. A white foam was obtained, which was determined to be the desired product.

reactant | 6-hydroxy-2-(4-hydroxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)O)C1 | C28H27NO4S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-acetoxy-2-(4-acetoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | C(C)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC(C)=O)C1 | C32H31NO6S
